### PR TITLE
Start adding autogradedHoles, add some missing gradeTheorems

### PR DESCRIPTION
**Pull request by xhalo32**
I added all of the missing autogradedHoles and some of the missing gradeTheorem directives to Basics.

The `extract_exercises.py` script can be helpful when looking for missing gradeTheorem directives.

### CODE REVIEW

File: LF/Automation.lean [hunk 1]
```diff
@@ -1635,6 +1651,9 @@ theorem pumping {α : Type} {re : RegExp α} {s : List α}
       ∀ m, s₁ ++ napp m s₂ ++ s₃ =~ re := by
   sorry
 ```
+-- TODO: Uncomment once the proof is done
```
Comment (Robertboy18) [inline LF/Automation.lean]: Small rendering issue: these comments show up literally on the student Automation page. Maybe remove them for now, or move the reminder into a `:::dev` block?

File: LF/Automation.lean [hunk 2]
```diff
@@ -1471,6 +1477,8 @@ theorem weak_pumping_union_l  {α : Type} (s₁ : List α) (re₁ re₂ : RegExp
         apply mUnionL
         assumption
 ```
+:::gradeTheorem 4 weak_pumping_union_l
```
Comment (Robertboy18) [inline LF/Automation.lean]: I’m not sure if this is intentional, but should `weak_pumping_union_l` be worth 3 points? The exercise is rated 3 stars and the symmetric `weak_pumping_union_r` also gets 3. The 4 may have carried over from `weak_pumping_app`.

File: LF/Lists.lean [hunk 3]
```diff
@@ -668,30 +681,26 @@ def alternate (l₁ l₂ : NatList) : NatList := solution!(
...
-```lean
 theorem test_alternate3 :
     alternate [1, 2, 3] [4] = [1, 4, 2, 3] := solution!(by rfl)
 
 theorem test_alternate4 :
     alternate [] [20, 30] = [20, 30] := solution!(by rfl)
 ```
 
-:::gradeTheorem 1 test_alternate4
+:::gradeTheorem "3/4" test_alternate1 test_alternate2 test_alternate3 test_alternate4
```
Comment (Robertboy18) [inline LF/Lists.lean:703]: Was adding `test_alternate3` and splitting the points across all four tests intentional? The Rocq version and previous Lean version gave 1 point each to tests 1, 2, and 4. The total is still 3, but the partial credit changes. Fine if intentional, but I wanted to check.

File: LF/Logic.lean [hunk 4]
```diff
@@ -1143,6 +1161,12 @@ theorem nil_is_not_cons {α : Type} (x : α) (xs : List α) :
 ```
 :::::
 
+:::instructors
+In `List.IsNil` changing the `_ =>` arm to `_ :: _ =>` would introduce a hidden dependency to `List.All` (and `List.In`) which is not emitted to the grading variant because it's in a solution block.
+This would lead to the solution of `List.All_In` (and `List.in_mem` in IndProp) to not pass comparator because the defini.
```
Comment (Robertboy18) [inline LF/Logic.lean]: This sentence looks like it got cut off at “the defini.”

File: HL/Hoare2.lean [hunk 5]
```diff
@@ -4304,8 +4304,20 @@ theorem hoare_asgn_weakest
...
+    intro st hst
+    rw [Assertion.subst_apply]
+    apply hP _ hst
+    exact Com.EvalR.asgn rfl
+```
+
+:::dev "Niklas Halonen (xhalo32)"
+I had to fill in the above proof for the autograder to pass.
+If the proof is bad or unidiomatic, feel free to completely replace it.
+Please note that I have no idea what I'm doing -- I've never worked with weakest preconditions before.
```
Comment (Robertboy18) [inline HL/Hoare2.lean]: Now that the proof is working, maybe we can remove this note? It appears in the teacher version, and the proof itself looks fine.

File: LF/Lists.lean (hunk 3 above)
Comment (xhalo32) [reply LF/Lists.lean:703]: Brought this up on Zulip.

Comment (xhalo32) [reply LF/Lists.lean:703]: Benjamin confirmed that this is okay. We can go over other exercises to mark all of the theorems as graded (in another PR perhaps).

**Review by Robertboy18 — APPROVED** [review]
Looks good to me now. Thanks for addressing the comments!

**Review by mwhicks1 — APPROVED** [review]
Look good on quick once-over. Let's merge and clean up minor issues later.
